US07662830B2
4. 5-Chloro-6-{4-[2-(3-chloro-4-fluoro-phenyl)-6-morpholin-4-yl-pyridin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester
To a de-gassed mixture of 4-{4-bromo-6-(3-chloro-4-fluoro-phenyl)-pyridin-2yl}-morpholine (50 mg, 0.135 mmol), 5-chloro-6-piperazin-1-yl-nicotinic acid ethyl ester (0.162 mmol), and 1M (THF) t-BuOK (0.162 mmol), in toluene (3 mL) under nitrogen add Pd2(dba)3 (0.0054 mmol) and BINAP (0.0067 mmol). Stir the mixture at 80° C. for 16 h, concentrate, extract with EtOAc. Dry over Na2SO4, concentrate under vacuum, and purify by preparative TLC (3:1 hexanes/EtOAc) to give the title compound.

reactant | 4-{4-bromo-6-(3-chloro-4-fluoro-phenyl)-pyridin-2yl}-morpholine | 0.135 mmol, 50 mg | BrC1=CC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)N1CCOCC1 | C15H13BrClFN2O
reactant | 5-chloro-6-piperazin-1-yl-nicotinic acid ethyl ester | 0.162 mmol | C(C)OC(C1=CN=C(C(=C1)Cl)N1CCNCC1)=O | C12H16ClN3O2
reactant | t-BuOK | 0.162 mmol, 1M | CC(C)(C)[O-].[K+]
reactant | BINAP | 0.0067 mmol | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0054 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-Chloro-6-{4-[2-(3-chloro-4-fluoro-phenyl)-6-morpholin-4-yl-pyridin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C(=C1)Cl)N1CCN(CC1)C1=CC(=NC(=C1)N1CCOCC1)C1=CC(=C(C=C1)F)Cl)=O | C27H28Cl2FN5O3
